US09403835B2
Intermediate A6: 6,7-dimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene bis hydrochloride
A 4M solution of HCl in 1,4-dioxane (10 mL; 40 mmol; 82.4 eq.) was added to a solution 6,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester (140 mg; 0.49 mmol; 1 eq.) in MeOH (2 mL) and the resulting mixture was stirred at room temperature for 18 hours then concentrated in vacuo. The residue was triturated in EtOH and the precipitate filtered off and dried to afford the title compound (78 mg, 62%) as a pale yellow solid. 1H NMR (DMSO-d6) δ 10.39 (br s, 2H), 8.91 (d, J=0.9 Hz, 1H), 6.24 (br s, 1H), 4.51-4.48 (m, 4H), 2.49 (s, 3H), 2.26 (s, 3H). HPLC (max plot) 99.9%; Rt 1.03 min. UPLC/MS: (MS+) 189.0 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 40 mmol, 10 mL, 82.4 eq. | O1CCOCC1 | C4H8O2
reactant | 6,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 0.49 mmol, 140 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=CC(=C(N3N2)C)C)C1 | C15H20N4O2
solvent | MeOH | 2 mL | CO | CH4O
product | 6,7-dimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene bis hydrochloride | 78 mg, 62% | Cl.Cl.CC1=C(N2N=C3C(=C2N=C1)CNC3)C | InChI=1S/C10H12N4.2ClH/c1-6-3-12-10-8-4-11-5-9(8)13-14(10)7(6)2;;/h3,11H,4-5H2,1-2H3;2*1H
